US06476038B1
E. 2-(4-Chloro-2,6-dimethylphenyl)-3-oxobutanenitrile
Dissolve 4-chloro-2,6-dimethyl phenyl acetonitrile (2.3 g, 179.2 g/mol) in 15 mL EtOAc and add sodium metal (0.35 g, pea-sized fragments). Heat to reflux (90° C. bath temperature) under N2 overnight. Evaporate down to solid and slurry up in Et2O (100 mL); stir vigorously to break up fragments. Filter and wash solid with copious amounts of Et2O. Dissolve solid in H2O to form a clear yellow solution, and add 1.0 N HCl (100 mL) to pH 1. Extract the resulting cloudy solution with CH2Cl2 (3×100 mL) until aqueous layer is clear. Pool and dry the organic layers over Na2SO4, filter and evaporate to yellow oil (1.8 g). TLC: Rf=0.2 using 20% EtOAc/80% hexanes as eluent. LCMS=222.3 (MH+); 220.2 (M−).

reactant | 4-chloro-2,6-dimethyl phenyl acetonitrile | 2.3 g | ClC1=CC(=C(C(=C1)C)CC#N)C | C10H10ClN
reactant | sodium | 0.35 g | [Na] | Na
reactant | HCl | 1.0 N, 100 mL | Cl | ClH
reactant | EtOAc | 15 mL | CCOC(=O)C | C4H8O2
product | 2-(4-Chloro-2,6-dimethylphenyl)-3-oxobutanenitrile | ClC1=CC(=C(C(=C1)C)C(C#N)C(C)=O)C | C12H12ClNO
